US08709994B2
Ethylene glycol (18 mL, 0.32 mol, 1.2 eq), paratoluene sulfonic acid (400 mg, 1% w/w) and cyclohexane (50 mL) were charged into a 1 L three-necked round-bottom flask, equipped with a dean and stark, a reflux condenser and a mechanical stirrer. Florhydral™ 3-(3-isopropylphenyl)butanal, 49.3 g, 0.26 mol) was added dropwise at ambient temperature. The stirred mixture was then heated for 3 h at reflux. The reaction mixture was cooled at ambient temperature and washed water (2×100 mL), dried over magnesium sulphate and concentrated. The resulting crude product was distilled with a Vigreux column (7.2 mBar, 146° C.), to give 2-[2-(3-isopropylphenyl)propyl]-1,3-dioxolane (239 g, gc purity>98%; yield 97%).

reactant | Ethylene glycol | 0.32 mol, 18 mL, 1.2 eq | C(CO)O | C2H6O2
reactant | paratoluene sulfonic acid | 400 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | Florhydral | CC(C)C1=CC(=CC=C1)C(C)CC=O | C13H18O
reactant | 3-(3-isopropylphenyl)butanal | C(C)(C)C=1C=C(C=CC1)C(CC=O)C | C13H18O
solvent | cyclohexane | 50 mL | C1CCCCC1 | C6H12
product | 2-[2-(3-isopropylphenyl)propyl]-1,3-dioxolane | 239 g, yield 97% | C(C)(C)C=1C=C(C=CC1)C(CC1OCCO1)C | C15H22O2
